US05610293
C. Synthesis of N,N'-Di(p-toluenesulfonyl)-1,2-diamino-1-phenylethane
1,2-Diamino-1-phenylethane prepared as in Example 3lB (5.0 g, 37.5 mmol) was dissolved in water (110 ml), and sodium hydroxide (3.0 g, 75 mmol) was added in small portions. After stirring for 10 min, p-toluenesulfonyl chloride (14.31 g, 75.1 mmol) was added and stirring was continued for 1 h. Ether (225 ml) was added and the reaction mixture was stirred overnight at room temperature. A white solid precipitated out during this time. The solid was filtered, washed with ether, and dried (13 g). Recrystallization from dichloromethane-hexane gave 12.17 g (73% yield) of a white solid: mp 148°-9° C.; 1H NMR (CDCl3) δ 2.39 (s, 3 H), 2.43 (s, 3 H), 3.19 (m, 2 H), 4.31 (dd, J=12.2, 6.8 Hz, 1 H), 4.77 (t, J=6.6, 1 H), 5.32 (d, J=6.7, 1 H), 6.98 (m, 2 H), 7.19 (m, 5 H), 7.27 (d, J=5.9, 2 H), 7.59 (d, J=8.3 Hz, 2 H), 7.68 (d, J=8.3 Hz, 2 H).

reactant | 1,2-Diamino-1-phenylethane | NC(CN)C1=CC=CC=C1 | C8H12N2
reactant | sodium hydroxide | 75 mmol, 3.0 g | [OH-].[Na+]
reactant | p-toluenesulfonyl chloride | 75.1 mmol, 14.31 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | Ether | 225 ml | CCOCC | C4H10O
solvent | water | 110 ml | O | H2O
product | N,N'-Di(p-toluenesulfonyl)-1,2-diamino-1-phenylethane | 12.17 g, 73% yield | C1(=CC=C(C=C1)S(=O)(=O)NC(CNS(=O)(=O)C1=CC=C(C=C1)C)C1=CC=CC=C1)C | C22H24N2O4S2
